US07592373B2
4.5.d. 3-(2,4,6-trichlorophenyl)propynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride
Prepared analogously to Example 2.3.f. from (2,4,6-trichlorophenyl)propynoic acid and [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine. Yield: 0.72 g (82.9% of theory); melting point: 188° C.-191° C.; C21H20Cl4N2O2*HCl (M=510.67); calc.: molecular ion peak (M+H)+: 473/475/477/479/481; found: molecular ion peak (M+H)+: 473/475/477/479/481; Rf value: 0.4 (silica gel, dichloromethane/methanol/ammonia (90:10:0.1)).

reactant | (2,4,6-trichlorophenyl)propynoic acid | ClC1=C(C(=CC(=C1)Cl)Cl)C#CC(=O)O | C9H3Cl3O2
reactant | [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine | ClC1=C(OCCN(CC)CC)C=CC(=C1)N | C12H19ClN2O
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-(2,4,6-trichlorophenyl)propynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride | Cl.ClC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=C(C=C(C=C1Cl)Cl)Cl)=O | InChI=1S/C21H20Cl4N2O2.ClH/c1-3-27(4-2)9-10-29-20-7-5-15(13-19(20)25)26-21(28)8-6-16-17(23)11-14(22)12-18(16)24;/h5,7,11-13H,3-4,9-10H2,1-2H3,(H,26,28);1H
